.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=25e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=25e-6 L=1e-6
M3 net_0 net_0 source_pmos source_pmos pmos W=1e-6 L=12e-6
M4 outfirststage net_0 source_pmos source_pmos pmos W=1e-6 L=12e-6
M5 net_0 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 outfirststage bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M7 net_3 net_3 source_pmos source_pmos pmos W=1e-6 L=1e-6
M8 net_1 ibias net_3 net_3 pmos W=1e-6 L=1e-6
M9 net_5 outfirststage source_pmos source_pmos pmos W=1e-6 L=2e-6
M10 out bias_p_4 net_5 net_5 pmos W=6e-6 L=2e-6
M11 net_7 net_7 source_nmos source_nmos nmos W=3e-6 L=2e-6
M12 out net_8 net_7 net_7 nmos W=3e-6 L=2e-6
M13 net_8 net_8 bias_n_1m bias_n_1m nmos W=3e-6 L=2e-6
M14 bias_n_1m net_7 source_nmos source_nmos nmos W=3e-6 L=2e-6
M15 bias_n_2 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M16 ibias ibias bias_p_3m bias_p_3m pmos W=1e-6 L=1e-6
M17 bias_p_3m net_3 source_pmos source_pmos pmos W=1e-6 L=1e-6
M18 bias_p_4 bias_p_4 source_pmos source_pmos pmos W=1e-6 L=28e-6
M19 bias_n_2 net_3 source_pmos source_pmos pmos W=1e-6 L=1e-6
M20 bias_p_4 bias_n_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M21 net_8 net_3 source_pmos source_pmos pmos W=1e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
